US07229999B2
(−)-cis-5-(4-Fluoro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(2-methoxy-ethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, 2-methoxyethanol, (4-fluoro-phenyl)-boronic acid and cis-2-aminomethyl-1-cyclohexanol as starting materials to yield racemic cis-5-(4-fluoro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(2-methoxy-ethoxy)-nicotinamide. Separation with heptane/ethanol on ChiralpakAD® yielded the (−)-enantiomer, MS (ISP) 403.4 (M+H)+, αD20: −17.1° in MeOH.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | (4-fluoro-phenyl)-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | cis-2-aminomethyl-1-cyclohexanol | NC[C@@H]1[C@@H](CCCC1)O | C7H15NO
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | racemic cis-5-(4-fluoro-phenyl)-N-(2-hydroxy-cyclohexylmethyl)-6-(2-methoxy-ethoxy)-nicotinamide | FC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NC[C@H]2[C@H](CCCC2)O)C1)OCCOC | C22H27FN2O4
